* Z:\mnt\spice-netlists\LTC1871-7_F09.asc
M§Q1 N001 N004 N005 N005 IRF7811
R1 N008 0 100K
R2 N009 0 12.4K
R3 OUT N009 412K
L1 IN N001 6.8µ
D1 N001 OUT MBR735
C1 OUT 0 68µ
R4 N007 N006 24K
C2 N006 0 2200p
C3 N007 0 100p
V1 IN 0 18
C4 IN 0 560µ
XU1 N003 N007 N009 N008 N002 0 N004 N002 IN N005 LTC1871-7
C5 N002 0 4.7µ
R5 IN N003 1Meg
C6 IN 0 10µ x2
R6 N005 0 5m
C7 OUT 0 10µ
Rload OUT 0 28
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran .7m startup
* LTC1871-7 - High Input Voltage, Current Mode Boost, Flyback and SEPIC Controller\nHigh Efficiency 42V, 1.5A Automotive Boost Converter\nInput: 8V to 28V       Output: 42V @ 1.5A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
.lib LTC1871-7.sub
.backanno
.end
