* Z:\mnt\spice-netlists\LTC3388-1_F06.asc
XU1 IN 0 NC_01 IN N001 OUT NC_02 0 0 NC_03 0 LTC3388-1
V1 IN 0 5
L1 N001 OUT 22µ
C1 OUT 0 10µ
Rload OUT 0 24
C2 IN 0 2.2µ
.tran 10m startup
* LTC3388-1 - 20V High Efficiency Nanopower Step-Down Regulator\nLow Input Voltage Step-Down Converter\nInput: 2.7V to 5.5V     Output: 1.2V @ 50mA
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
.lib LTC3388-1.sub
.backanno
.end
