* Z:\mnt\spice-netlists\LTC3810-5_F19.asc
R1 IN N001 110K
M§Q1 IN N003 N004 N004 BSH114
R2 IN N003 100K
D1 N004 N005 MBRS1100
C1 N005 N009 .1µ
M§Q2 IN N007 N009 N009 BSC100N06LS3
M§Q3 N009 N015 0 0 BSC100N06LS3
C2 N004 0 1µ
L1 N009 OUT 10µ
D2 0 N009 MBRS1100
R3 OUT N013 10K
R4 N013 0 1.91K
C3 OUT 0 270µ
C4 N014 N013 5p
C5 N010 0 1000p
C6 N012 N011 .01µ
R5 N016 N013 200K
C7 N014 N016 47p
R6 N011 0 10K
V1 IN 0 36
C8 IN 0 68µ
C9 N001 0 1000p
R7 N004 N008 78.7K
R8 N008 0 10K
R9 IN N002 200K
R10 N002 0 14.3K
Rload OUT 0 .84
XU2 MP_01 N004 N008 N006 0 N014 N013 N012 N010 MP_02 MP_03 N004 N002 N003 OUT N004 N004 N015 0 0 MP_04 MP_05 MP_06 N009 N009 N007 N005 MP_07 MP_08 MP_09 N001 MP_10 0 LTC3810-5
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2012, 2017 Linear Technology Inc. All rights reserved.
* LTC3810-5 - 60V Current Mode Synchronous Switching Regulator Controller\nHigh Efficiency, High Voltage Buck Converter\nInput: 12V to 60V     Output: 5V @ 6A, Fsw = 250kHz
.lib LTC3810-5.sub
.backanno
.end
