* Z:\mnt\spice-netlists\LTC3838-1_F19.asc
R1 N029 0 137K
V1 IN 0 12
C1 0 N003 4.7µ
R2 N003 N005 2.2
M§Q1 IN N008 N013 N013 RJK0305DPB
M§Q2 N013 N016 0 0 RJK0301DPB
D1 N003 N010 MBRS140
C2 N010 N013 .1µ
L1 N013 N012 470n
C3 N018 N020 1n
C4 N022 0 470p
C5 N024 0 1n
R3 OUT1 N027 10K
R4 N027 0 10K
M§Q3 IN N009 N014 N014 RJK0305DPB
M§Q4 N014 N017 0 0 RJK0301DPB
D2 N003 N011 MBRS140
C6 N011 N014 .1µ
L2 N014 N015 470n
C7 N019 N021 1n
C8 N023 0 471p
R5 OUT2 N026 10K
R6 N026 0 20K
C9 IN 0 180µ
C10 IN 0 22µ x4
C11 N004 0 0.1µ
R7 N004 N001 2.2
C12 OUT1 0 330µ x2
C13 OUT1 0 100µ x2
C14 OUT2 0 100µ x2
C15 OUT2 0 330µ x2
R8 N012 OUT1 1.5m
R9 N018 N012 100
R10 N020 OUT1 100
R11 OUT2 N015 1.5m
R12 OUT2 N021 100
R13 N015 N019 100
C16 0 N025 1n
R14 N003 N007 100K
R15 N003 N006 100K
XU1 N025 N023 N026 N030 N028 N031 0 N029 0 N022 N024 N027 0 N018 N020 N005 NC_01 N006 N010 N008 N013 N016 N003 N004 0 N005 N002 N003 N017 N014 N009 N011 N007 NC_02 N005 N021 N019 0 LTC3838-1
R16 N026 0 20K
R17 N026 0 10K
V2 N002 0 5
D3 IN N001 MBRS140
D4 N002 N001 MBRS140
Rload2 OUT2 0 .045
Rload1 OUT1 0 .06
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 750u startup
* LTC3838-1 - Dual, Fast, Accurate Step-Down DC/DC Controller with Dual Differential Output Sensing\nHigh Efficiency Step-Down DC/DC Converter with Rsense Current Sensing\nInput: 3.3V to 14V     Outputs: 1.2V @ 20A & 0.9V @ 20A, Fsw = 300kHz
* Notes:\n  Smaller TRACK/SS capacitors are being used to reduce simulation time. Typical values should be 0.01µF.\n  More output capacitors may be needed to meet load step and output voltage requirements.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2013 Linear Technology Inc. All rights reserved.
.lib LTC3838-1.sub
.backanno
.end
