* Z:\mnt\spice-netlists\LTC1871-1_F018A.asc
M§Q1 N003 N006 0 0 Si4840DY
R1 N007 0 80.6K
R2 N008 0 12.1K
R3 OUT N008 105K
L1 IN N003 10µ
D1 N004 OUT MBR735
C1 N005 0 6800p
V1 IN 0 10
L2 0 N004 10µ
C2 IN 0 47µ
C3 N004 N003 10µ
R4 IN N002 1Meg
C4 0 OUT 10µ
XU1 N002 N005 N008 N007 N001 0 N006 N001 IN N003 LTC1871-1
C5 OUT 0 47µ
C6 N001 0 4.7µ
Rload OUT 0 6
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 1
.tran 1m startup
* LTC1871-1 - Wide Input Range, No RSENSE Current Mode Boost, Flyback and SEPIC Controller\nHigh Efficiency SEPIC Converter\nInput: 4.5V to 15V      Outputs: 12V @ 2A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
.lib LTC1871-1.sub
.backanno
.end
