* Z:\mnt\spice-netlists\LTC3788-1_IndVin.asc
C1 N001 0 4.7µ
R1 N001 N002 100K
V1 IN2 0 PWL(0 0 0.1m 6)
R2 IN1 N007 4m
L1 N007 N008 3.3µ
M§Q1 OUT1 N003 N008 N008 Si4840DY
M§Q2 N008 N011 0 0 Si4840DY
C2 N005 N008 .1µ
D1 N001 N005 MBR0540
C3 OUT1 0 22µ
R3 N013 0 12.1K
R4 OUT1 N013 232K
C4 N017 0 .01µ
C5 N015 0 15n
R5 IN2 N010 3m
L2 N010 N009 1.25µ
M§Q3 OUT2 N004 N009 N009 Si4840DY
M§Q4 N009 N012 0 0 Si4840DY
C6 N006 N009 .1µ
C7 OUT2 0 22µ
R6 N014 0 12.1K
R7 OUT2 N014 110K
C8 N018 0 .01µ
C9 N016 0 15n
D2 N001 N006 MBR0540
XU1 N007 0 MP_01 MP_02 0 0 NC_03 NC_04 N010 IN2 N014 N016 N018 MP_05 N009 N004 N006 N012 N001 NC_06 0 OUT2 N011 N005 N003 N008 N002 MP_07 N017 N015 N013 IN1 LTC3788-1
Rload1 OUT1 0 4.8
Rload2 OUT2 0 1.2
C10 IN1 0 22µ x4
C11 IN1 0 220µ
C12 OUT2 0 220µ
C13 OUT1 0 220µ
C14 IN2 0 220µ
C15 IN2 0 22µ x4
V2 IN1 0 PWL(0 0 0.1m 15)
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 3m
* LTC3788-1 - 2-Phase, Dual Output Synchronous Boost Controller\nHigh Efficiency Dual Boost Regulator with Independent Inputs\nInput1: 12V to 24V     Output1: 24V @ 5A\nInput2: 5V to 12V     Output2: 12V @ 10A
* Notes:\n  SS capacitors have been reduced to speed up simulation time. Typical values should be 0.1µF.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2014 Linear Technology Inc. All rights reserved.
.lib LTC3788-1.sub
.backanno
.end
