* Z:\mnt\spice-netlists\LTC4000-1_LT3845A_TA01A_DC1803B-C_DC1619A.asc
M§Q1 N003 N009 N011 N011 BSC123N08NS3
M§Q2 N011 N014 0 0 BSC123N08NS3
D1 N004 N006 MBRS140
C1 N006 N011 .1µ
C2 N016 N017 47n
D2 0 N011 MBRS1100
L1 N011 N012 10µ
R1 N012 N005 3m
R2 N013 0 49.9K
C3 N008 0 .002µ
C4 N005 0 100µ
D3 N005 N004 1N4148
R3 N010 N005 150K
R4 0 N010 16.2K
C5 N004 0 1µ
XU1 N003 N007 N008 N010 N010 N015 MP_01 N013 N005 N012 0 N014 N004 N011 N009 N006 0 LT3845A
R5 N015 N016 14.7k
R6 N007 N034 1Meg
R7 N002 N022 1.1Meg
R8 N022 0 100K
C6 N002 0 1µ
C7 P001 0 10n
C8 N029 0 10n
R9 N027 N034 100K
R10 N025 N034 100K
M§Q3 N005 N018 OUT OUT Si4427DY
M§Q4 BAT N020 N019 N019 Si4427DY
R11 OUT N021 1.15Meg
R12 N021 N023 127K
R13 N023 N026 133K
R14 BAT N026 1.13Meg
V1 N030 0 7.35
C9 N034 0 1µ
R15 N028 N034 10K
R16 N028 0 10K
R17 N033 0 22.1K
R18 N032 0 24.9K
C10 N031 0 .0047µ
R19 OUT N019 5m
C11 N015 0 2200p
C12 BAT N030 10m
V2 IN 0 36
R20 N002 N003 5m
L2 N001 N002 .01µ
C13 N003 0 100µ
XU2 N022 N007 P001 N035 N024 N029 N033 N032 N031 0 N025 N027 N034 N028 N023 N026 BAT N020 N019 OUT N021 N018 N005 N015 N017 N003 N002 LTC4000-1 period=19
R21 N002 N035 31.6K
R22 N035 0 10K
R23 IN N001 2
Rload OUT 0 10
D4 0 N022 2V
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 25m 10m startup
.model 2V D(Ron=100 Roff=1G vfwd=0.01 Vrev=1.9 epsilon=1 RevEpsilon=.2)
* LTC4000-1 - High Voltage High Current Controller for Battery Charging with Maximum Power Point Control\nLT3845A - High Voltage Synchronous Current Mode Step-Down Controller with Adjustable Operating Frequency\nCharger for Three LiFePO4 Cells with a Solar Panel Input\nInput: 20V to 60V     Output: 10.8V Float Voltage @ 10A Max Charge Current & 12V @ 15A System
* Battery
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2014 Linear Technology Inc. All rights reserved.
.lib LT3845A.sub
.lib LTC4000-1.sub
.backanno
.end
